US04912119
(b) N1 -[3-(1H-Imidazol-4-yl)propyl]-N2 -(3,3-diphenylbutyl)-guanidine hydrochloride
1.00 g (2.1 mmol) of N1 -benzoyl-N2 -[3-(1H-imidazol-4-yl) propyl]-N3 -(3,3-diphenylbutyl)-guanidine are boiled under reflux with 20 ml of conc. hydrochloric acid for 20 hours. After the reaction mixture has been highly concentrated by evaporation under vacuum, the residue is diluted with 30 ml of water. The solution is extracted 5 times with 20 ml portions of diethylether. The aqueous phase is then filtered and concentrated by evaporation under vacuum at temperatures of up to 50° C. and the residue is concentrated twice by evaporation with 10 ml portions of absolute ethanol. The crude product obtained is chromatographed on silica gel with dichloromethane/methanol (80:20) as solvent. After concentration by evaporation under vacuum, the main fraction yields 0.53 g (61%) of a colourless, amorphous solid.

reactant | N1 -benzoyl-N2 -[3-(1H-imidazol-4-yl) propyl]-N3 -(3,3-diphenylbutyl)-guanidine | 2.1 mmol, 1.00 g | C(C1=CC=CC=C1)(=O)NC(=NCCCC=1N=CNC1)NCCC(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H33N5O
reactant | hydrochloric acid | 20 ml | Cl | ClH
product | N1 -[3-(1H-Imidazol-4-yl)propyl]-N2 -(3,3-diphenylbutyl)-guanidine hydrochloride | Cl.N1C=NC(=C1)CCCNC(=NCCC(C)(C1=CC=CC=C1)C1=CC=CC=C1)N | InChI=1S/C23H29N5.ClH/c1-23(19-9-4-2-5-10-19,20-11-6-3-7-12-20)14-16-27-22(24)26-15-8-13-21-17-25-18-28-21;/h2-7,9-12,17-18H,8,13-16H2,1H3,(H,25,28)(H3,24,26,27);1H
